US04116932
A solution of 1164 g (6 mols) of α,α'-dihydroxy-p-diisopropyl benzene in 5490 g (45 mols) of 2,4-dimethyl phenol is added dropwise with stirring over a period of 9 to 10 hours at 150° C in a nitrogen atmosphere to a solution of 1830 g (15 mols) of 2,4-dimethyl phenol. At the same time, about 200 to 210 g of water distilled over. The reaction mixture is stirred for 15 minutes, the catalyst is neutralised with 6.5 g of soda and freed from 2,4-dimethyl phenol under reduced pressure up to a sump temperature of 140° C/12 Torr. This leaves a light, crystallising residue of 2230 g (93% of the theoretical). The recrystallisation of 100 g from 150 ml of tetrachloroethane gives α,α'-bis-(2-hydroxy-3,5-dimethyl phenyl-p-diisopropyl benzene in a yield of 80% (melting point 179° C).

reactant | α,α'-dihydroxy-p-diisopropyl benzene | 6 mols, 1164 g | OC(C)(C)C1=CC=C(C=C1)C(C)(C)O | C12H18O2
reactant | 2,4-dimethyl phenol | 45 mols, 5490 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | 2,4-dimethyl phenol | 15 mols, 1830 g | CC1=C(C=CC(=C1)C)O | C8H10O
product | 2-hydroxy-3,5-dimethyl phenyl-p-diisopropyl benzene | yield of 80% | OC1=C(C=C(C=C1C)C)C1=C(C=CC(=C1)C(C)C)C(C)C | C20H26O
